US07994331B2
Production of 5-(6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)-3-methyl-1,3-oxazolidine-2,4-dione
1 N methylamine/methanol solution (2 ml) was added to methyl (6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)(hydroxy)acetate (14 mg) obtained in (step 2), and the reaction liquid was stirred at 50° C. for 3 hours. The solvent was evaporated away under reduced pressure, and to a tetrahydrofuran (2 ml) solution of the resulting residue, added were 1,1′-carbonyldiimidazole (2.5 mg) and triethylamine (0.01 ml), and the reaction liquid was stirred at 70° C. for 2 hours. then, potassium t-butoxide (3 mg) was added to it, and the reaction liquid was stirred at 70° C. for 5 minutes. The reaction mixture was purified through reversed-phase middle-pressure liquid chromatography (ODS-AS-360-CC (by YMC), mobile phase: water/acetonitrile/0.1% trifluoroacetic acid), and the resulting fraction was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and saturated saline water in that order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a yellow solid.

reactant | methylamine methanol | 1 N, 2 ml | CN.CO
reactant | methyl (6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)(hydroxy)acetate | 14 mg | C(C)S(=O)(=O)C1=CC=C(OC=2C(=CC3=C(NC(=N3)C3=NC=CC=C3)C2)C(C(=O)OC)O)C=C1 | C23H21N3O6S
reactant | potassium t-butoxide | 3 mg | CC(C)([O-])C.[K+]
product | 5-(6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)-3-methyl-1,3-oxazolidine-2,4-dione | C(C)S(=O)(=O)C1=CC=C(OC=2C(=CC3=C(NC(=N3)C3=NC=CC=C3)C2)C2C(N(C(O2)=O)C)=O)C=C1 | C24H20N4O6S
